US07304081B2
Step 1. Methyl(2S,4R)—N-tert-Butoxycarbonyl-4-hydroxy-2-pyrrolidinecarboxylate
To a suspension of methyl (2S,4R)-4-hydroxypyrrolidine-2-carboxylate hydrochloride (10.00 g, 0.05506 mol) in methylene chloride (50 mL, 0.8 mol) was added triethylamine (20 mL, 0.1 mol) at ambient temperature. The reaction mixture was stirred for 15 minutes and then cooled to 0° C. 4-Dimethylaminopyridine (0.8 g, 0.007 mol) and di-tert-butyldicarbonate (22.00 g, 0.1008 mol) were added sequentially and the reaction was allowed to warm slowly to ambient temperature with stirring. The reaction mixture was filtered to remove the solid and the filtrate was then concentrated in vacuo. The residue was dissolved in EtOAc (50 mL) and the solution was washed with 1N HCl (20 mL) and then NaHCO3 (10 mL) and finally brine. The organic layer was then dried over MgSO4 and conenctrated in vacuo. The 1H NMR confirmed the product was formed.

reactant | methyl (2S,4R)-4-hydroxypyrrolidine-2-carboxylate hydrochloride | 0.05506 mol, 10.00 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | methylene chloride | 0.8 mol, 50 mL | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 0.1 mol, 20 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 0.1008 mol, 22.00 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-Dimethylaminopyridine | 0.007 mol, 0.8 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl(2S,4R)—N-tert-Butoxycarbonyl-4-hydroxy-2-pyrrolidinecarboxylate | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC | C11H19NO5
